US07576080B2
9-BBN (0.236 g, 0.00193 mol) in tetrahydrofuran (5.00 mL) was treated with 4-but-3-en-1-yl-5-(4-fluorophenyl)thieno[2,3-d]pyrimidine (0.500 g, 0.00176 mol) in tetrahydrofuran (3.0 mL) at 50° C. for 1 h. Ethanol (1.0 mL), 6 N sodium hydroxide (0.33 mL) and 30% hydrogen peroxide (0.67 mL) were then added successively and the resulting mixture was maintained at 50° C. for 1 h. The reaction was then cooled to room temperature, diluted with ethyl acetate (50 mL) and washed with sodium bicarbonate (2×30 mL). The organic layers were combined, concentrated and purified by column chromatography over silica gel (using ethyl acetate/hexane 1:5-1:1 as an eluent) to afford 4-[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]butan-1-ol as a white solid in 47% yield.

reactant | 9-BBN | 0.00193 mol, 0.236 g | B1C2CCCC1CCC2 | C8H15B
reactant | 4-but-3-en-1-yl-5-(4-fluorophenyl)thieno[2,3-d]pyrimidine | 0.00176 mol, 0.500 g | C(CC=C)C=1C2=C(N=CN1)SC=C2C2=CC=C(C=C2)F | C16H13FN2S
reactant | sodium hydroxide | 6 N, 0.33 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 0.67 mL | OO | H2O2
solvent | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | Ethanol | 1.0 mL | C(C)O | C2H6O
product | 4-[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]butan-1-ol | 47% yield | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)CCCCO | C16H15FN2OS
